US05558971
To a solution of 2-methoxyethanol (1 l) in benzene (1.5 l), conc. sulfuric acid (3 ml) was added and the mixture was heated to 80° C. A solution of 9-anthracenemethanol (45 g, 0.22 mole) in 2-methoxyethanol (450 ml) was added to the mixture under reflux and stirring was continued for 1.5 hours under reflux. After standing at room temperature overnight, the reaction mixture was washed with saturated aqueous sodium bicarbonate, dried over anhydrous MgSO4 and evaporated. The residual crude oil (63 g) was chromatographed on silica gel (Wakogel C-200, manufactured by Wako Pure Chemical Industries, Ltd.) with n-hexane/ethyl acetate [50/1→25/1→8/1 (V/V)] as eluent to give 47.6 g of 9-(2-methoxyethoxy)methylanthracene as orange yellow oil.

reactant | 9-anthracenemethanol | 0.22 mole, 45 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | 2-methoxyethanol | 450 ml | COCCO | C3H8O2
reactant | 2-methoxyethanol | 1 l | COCCO | C3H8O2
solvent | benzene | 1.5 l | C1=CC=CC=C1 | C6H6
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 9-(2-methoxyethoxy)methylanthracene | 47.6 g | COCCOCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C18H18O2
